datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:15])([H:16])[H:17]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:15])([H:3])([H:4])[H:5].[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])([H:16])[H:17],33.0536
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])[H:8])[H:7],-6.56888
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:10])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],79.7052
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[c:29]1[c:30]([H:35])[c:31]([H:36])[c:32]([H:37])[c:33]([H:38])[c:34]1[H:39]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[c:29]1[c:30]([H:35])[c:31]([H:36])[c:32]([H:37])[c:33]([H:38])[c:34]1[H:39])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],3.38904
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:3],81.3788
[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11].[O:12]>>[H:8][O:12].[O:0]=[C:1]1[C:2]=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11],61.5048
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10],76.7346
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5][N:6]=[O:7]>>[C:0](=[O:1])([H:3])[H:4].[H:2][O:5][N:6]=[O:7],9.56044
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23])[H:10])([H:8])[H:9],16.8615
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],70.2494
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][H:14])[H:13])[O:5][O:6][H:15])([H:7])([H:8])[H:9].[O:16][O:17]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][H:14])([H:13])[O:16][O:17])[O:5][O:6][H:15])([H:7])([H:8])[H:9],-2.24467416
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:23]([C:22]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:10])([H:11])[H:12],34.8527
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][H:24],18.11672
[C:0]([C:1]([C:2]([O:3][O:4])([H:13])[H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:16])([H:13])[H:14])([C:5]([C:6]([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:9])([H:10])[H:11],83.68
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11])[H:9]>>[O:0]([O:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[O:7]1)([H:10])[H:11])[H:9].[O:8][H:19],37.656
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0](=[C:1]=[N:2][H:6])([H:4])[H:5].[H:3][O:7][H:8],0.0
